US07157455B2
The same procedure as described in Example 60 was used, starting from [4-amino-2-(piperidin-4-ylamino)-pyrimidin-5-yl]-(5-fluoro-2-methoxy-phenyl)-methanone trifluoroacetic acid salt, Example 59, and propyl chloroformate (Aldrich) to give 4-[4-amino-5-(5-fluoro-2-methoxy-benzoyl)-pyrimidin-2-ylamino]-piperidine-1-carboxylic acid propyl ester. MS (M+H)+, 432.

reactant | [4-amino-2-(piperidin-4-ylamino)-pyrimidin-5-yl]-(5-fluoro-2-methoxy-phenyl)-methanone trifluoroacetic acid salt | FC(C(=O)O)(F)F.NC1=NC(=NC=C1C(=O)C1=C(C=CC(=C1)F)OC)NC1CCNCC1
reactant | propyl chloroformate | ClC(=O)OCCC | C4H7ClO2
product | 4-[4-amino-5-(5-fluoro-2-methoxy-benzoyl)-pyrimidin-2-ylamino]-piperidine-1-carboxylic acid propyl ester | C(CC)OC(=O)N1CCC(CC1)NC1=NC=C(C(=N1)N)C(C1=C(C=CC(=C1)F)OC)=O | C21H26FN5O4
